US04067906
To a refluxing solution of 4-methyl-4-p-tolylpentanoic acid (51.5 g, 0.25 mol) in tetrahydrofuran (500 ml) and liquid ammonia (1500 ml) was added, portionwise, lithium metal (26.0 g, 3.75 gram atom). After the reaction mixture was stirred for 15 minutes, ethanol (150 ml) was added over 40 minutes. The reaction mixture was stirred an additional hour until the dark blue solution became colorless. Ammonium chloride (50 g) was added and the ammonia allowed to evaporate. The residue was acidified with HCl (pH ca. 3), extracted with ethylene dichloride, washed with water, concentrated and distilled to yield 49.6 g (80.8%) of the 4-methyl-4-(4-methyl-1,4-cyclohexadien-1-yl)pentanoic acid: bp 128° -130° C (1 mm); nD20 1.4955; λmax 211 nm; δTMSCDCl3 11.21 (s,1), 5.43-5.50 (broad band, 2) 2.62 (s,4), 1.66 (s,3) 1.03 (s, 6H).

reactant | 4-methyl-4-p-tolylpentanoic acid | 0.25 mol, 51.5 g | CC(CCC(=O)O)(C)C1=CC=C(C=C1)C | C13H18O2
reactant | ammonia | 1500 ml | N | H3N
reactant | lithium | 26.0 g | [Li] | Li
reactant | Ammonium chloride | 50 g | [Cl-].[NH4+]
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 4-methyl-4-(4-methyl-1,4-cyclohexadien-1-yl)pentanoic acid | 49.6 g, 80.8% | CC(CCC(=O)O)(C)C1=CCC(=CC1)C | C13H20O2
